US04086353
EXAMPLE 1: 1-Methyl-7-(2-oxazolin-2-ylamino)-1H-indazole
The starting material is prepared as follows: 3 g of 1-methyl-7-isothiocyanato-indazole is added to a stirred mixture of 2 ml of ethanolamine and 100 ml of ether, thus forming a white precipitate. After 2 hours the precipitate is filtered off and washed with ether to yield the starting material; M.Pt. 207° - 209°.

reactant | 1-methyl-7-isothiocyanato-indazole | 3 g | CN1N=CC2=CC=CC(=C12)N=C=S | C9H7N3S
reactant | ethanolamine | 2 ml | C(O)CN | C2H7NO
solvent | ether | 100 ml | CCOCC | C4H10O
product | 1-Methyl-7-(2-oxazolin-2-ylamino)-1H-indazole | CN1N=CC2=CC=CC(=C12)NC=1OCCN1 | C11H12N4O
